US04883789
In a flask under a nitrogen atmosphere were placed 2.54 g (0.104 mole) of magnesium metal and approximately 25 mL of dry tetrahydrofuran. To this mixture was added a few drops of 1,2-dibromoethane. This was followed by the slow addition of a solution of 19.54 g (0.104 mole) of 4-methoxybromobenzene in 30 mL of tetrahydrofuran. After completion of addition, this reaction mixture was heated at reflux for one hour and was then cooled to room temperature. Slowly 9.89 g (0.105 mole) of dimethylchlorosilane was added to the reaction mixture which was then heated at reflux for one hour. To this was added 50 mL of 1 N hydrochloric acid, and the organic and aqueous phases were separated. The aqueous phase was extracted three times with 50 mL of diethyl ether, and these washes were combined with the organic phase. The combined extracts were then washed with 200 mL of a saturated, aqueous solution of sodium chloride and were dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, leaving a residue. Distillation of this residue yielded 14.4 g of (4-methoxyphenyl)dimethylsilane as a clear, yellow liquid, b.p. 80-90° C. at 9 mm of Hg. The proton nmr and ir spectra were consistent with the proposed structure.

reactant | magnesium | 0.104 mole, 2.54 g | [Mg] | Mg
reactant | 4-methoxybromobenzene | 0.104 mole, 19.54 g | COC1=CC=C(C=C1)Br | C7H7BrO
reactant | dimethylchlorosilane | 0.105 mole, 9.89 g | C[SiH](Cl)C | C2H7ClSi
reactant | hydrochloric acid | 1 N, 50 mL | Cl | ClH
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | approximately 25 mL | O1CCCC1 | C4H8O
product | (4-methoxyphenyl)dimethylsilane | 14.4 g | COC1=CC=C(C=C1)[SiH](C)C | C9H14OSi
